US06525220B2
N-tert-Butoxycarbonyl-5-methoxy-2-nitroaniline (Process for Preparation of the Compound Obtained in Reference Example 6 Disclosed in Japanese Patent Application Publication Hei-9-295970)
To a solution of 5-methoxy-2-nitroaniline (16 g) in anhydrous tetrahydrofuran (500 ml) were added di-tert-butyl dicarbonate (25 g), pyridine (15 ml) and 4-(dimethyl-amnino)pyridine (0.6 g) at room temperature and the mixture was stirred for 2 hours. The reaction mixture was concentrated and the residue was partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate and concentrated. The residue was purified by chromatography on a silica gel column using ethyl acetate: n-hexane=1:10 as the eluant to give the desired compound (12.5 g, yield 49%, melting point 112-114° C.).

reactant | 5-methoxy-2-nitroaniline | 16 g | COC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O3
reactant | di-tert-butyl dicarbonate | 25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-5-methoxy-2-nitroaniline | 12.5 g, yield 49% | C(C)(C)(C)OC(=O)NC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C12H16N2O5
